US08754226B2
(S)-tert-butyl 4-(3-(4-bromo-2-fluoro-5-methylphenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (2.3 g, 4.9 mmol) was dissolved in CH2Cl2:MeOH (9:1, 50 mL). 4N HCl in dioxane (10 mL) was added and the reaction stirred at ambient temperature overnight. The reaction was concentrated to afford crude (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride (2.0 g, 4.9 mmol, 101% yield) which was used without further purification.

reactant | (S)-tert-butyl 4-(3-(4-bromo-2-fluoro-5-methylphenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 4.9 mmol, 2.3 g | BrC1=CC(=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1C)F | C21H28BrFN2O4
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 MeOH | 50 mL | C(Cl)Cl.CO
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride | 4.9 mmol, 2.0 g, 101% yield | Cl.BrC1=CC(=C(O[C@@H]2C(N(CC2)C2CCNCC2)=O)C=C1C)F | InChI=1S/C16H20BrFN2O2.ClH/c1-10-8-15(13(18)9-12(10)17)22-14-4-7-20(16(14)21)11-2-5-19-6-3-11;/h8-9,11,14,19H,2-7H2,1H3;1H/t14-;/m0./s1
